US07723330B2
Step A: Preparation of 5-bromo-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one:
A mixture of 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one (0.100 g, 0.448 mmol; prepared according to the procedure of Example 46, Step B), 4-fluorobenzenamine (0.056 ml, 0.582 mmol) and NaHCO3 (0.150 g, 1.79 mmol) in n-BuOH (3 mL) was stirred at 60° C. overnight. The reaction mixture was cooled to room temperature and then diluted with EtOAc. The EtOAc layer washed with H2O and saturated aqueous NaCl. The aqueous phase was re-extracted with EtOAc. The combined EtOAc layers were dried (Na2SO4), filtered and concentrated to yield the desired product (0.132 g, 99%) as a pale yellow solid that was used without further purification.

reactant | 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one | BrC=1C(N(C(=NC1)Cl)C)=O | C5H4BrClN2O
reactant | 4-fluorobenzenamine | 0.582 mmol, 0.056 ml | FC1=CC=C(C=C1)N | C6H6FN
reactant | NaHCO3 | 1.79 mmol, 0.150 g | C(=O)(O)[O-].[Na+]
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 0.132 g, 99% | BrC=1C(N(C(=NC1)NC1=CC=C(C=C1)F)C)=O | C11H9BrFN3O
